US05656656
20 Mg of pTS acid are added to a solution of 1.6 g of ethyl 5-tert-butoxycarbonylamino-2-hydroxy-2-ethoxycarbonyl-pentanoate in 12 ml of 1,4-diox-2-ene. After 5 h. at r.t., 0.3 ml of pyridine are added, the excess reagent is distilled under vacuum and the residue is chromatographed on silica gel, to give 1.75 g of ethyl 5-tert-butoxycarbonylamino-2-(1,4-dioxan-2-yl-oxy)-2-ethoxycarbonyl-pentanoate.

reactant | ethyl 5-tert-butoxycarbonylamino-2-hydroxy-2-ethoxycarbonyl-pentanoate | 1.6 g | C(C)(C)(C)OC(=O)NCCCC(C(=O)OCC)(C(=O)OCC)O | C15H27NO7
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 5-tert-butoxycarbonylamino-2-(1,4-dioxan-2-yl-oxy)-2-ethoxycarbonyl-pentanoate | 1.75 g | C(C)(C)(C)OC(=O)NCCCC(C(=O)OCC)(C(=O)OCC)OC1OCCOC1 | C19H33NO9
